US07855292B2
B. (S)-2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-propionic acid
A mixture of bis(1,5-cyclooctadiene)rhodium(I) trifluoromethanesulfonate (0.11 g, 0.18 mmol) and (R)—N-diphenylphosphino-N-methyl-1-[(S)-2-diphenylphosphino)ferrocenyl]ethylamine [(R)-methyl BoPhoz; 70 mg, 0.15 mmol] in MeOH (150 mL) under N2 was stirred for 30 min. 2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-acrylic acid (4.5 g, 15 mmol) was added, and the mixture was stirred under H2 (40 psi) on a Parr apparatus for 18 h. The mixture was concentrated to give the title compound as an orange oil (4.5 g, 100%). MS (ESI−): mass calcd. for C11H11BrFNO3, 303.0; m/z found, 301.8 [M−H]−. 1H NMR (400 MHz, DMSO-d6): 7.50 (dd, J=6.7, 2.1, 1H), 7.24 (ddd, J=8.4, 4.7, 2.2, 1H), 7.13 (t, J=8.6, 1H), 4.65 (dd, J=9.0, 5.2, 1H), 3.19 (dd, J=14.0, 5.2, 1H), 2.93 (dd, J=14.0, 9.0, 1H), 1.93 (s, 3H).

reactant | ethylamine | 0.15 mmol, 70 mg | C(C)N | C2H7N
reactant | 2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-acrylic acid | 15 mmol, 4.5 g | C(C)(=O)NC(C(=O)O)=CC1=CC(=C(C=C1)F)Br | C11H9BrFNO3
solvent | MeOH | 150 mL | CO | CH4O
catalyst | bis(1,5-cyclooctadiene)rhodium(I) trifluoromethanesulfonate | 0.18 mmol, 0.11 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.C(S(=O)(=O)[O-])(F)(F)F.[Rh]
product | (S)-2-Acetylamino-3-(3-bromo-4-fluoro-phenyl)-propionic acid | 4.5 g, 100% | C(C)(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)F)Br | C11H11BrFNO3
